US09063126B2
2-(6-chloropyridin-3-yl)-N-p-tolylacetamide
In a 500 mL round-bottom flask were combined 2-(6-chloropyridin-3-yl)acetic acid (10.3 g, 60.0 mmol; Oakwood), p-toluidine (6.43 g, 60.0 mmol; Aldrich) and N,N-diisopropylethylamine (34.3 mL, 198 mmol; Aldrich) in tetrahydrofuran (220 mL). The mixture was stirred at room temperature for 1 hour, and then O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU; 25.1 g, 66.0 mmol; Aldrich) was added. After 16 hours, the reaction was concentrated, the residue dissolved in ethyl acetate (500 mL) and washed with water (50 mL). The organic phase was concentrated and purified by flash chromatography (silica gel, hexanes/ethyl acetate, 2:1) to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 2.28 (s, 3H), 3.71 (s, 2H), 7.11 (d, J=8 Hz, 2H), 7.37-7.46 (m, 3H), 7.81 (dd, J=8, 3 Hz, 1H), 8.33 (d, J=2 Hz, 1H); MS (DCI/NH3) m/z 261 (M+H)+.

reactant | 2-(6-chloropyridin-3-yl)acetic acid | 60.0 mmol, 10.3 g | ClC1=CC=C(C=N1)CC(=O)O | C7H6ClNO2
reactant | p-toluidine | 60.0 mmol, 6.43 g | NC1=CC=C(C=C1)C | C7H9N
reactant | N,N-diisopropylethylamine | 198 mmol, 34.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 66.0 mmol, 25.1 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | 2-(6-chloropyridin-3-yl)-N-p-tolylacetamide | ClC1=CC=C(C=N1)CC(=O)NC1=CC=C(C=C1)C | C14H13ClN2O
